US04806539
1.3 g of 1-cyclopropylpiperazine and 2.2 g (20 mmol) of 1,4-diazabicyclo[2.2.2]octane are added to 2.8 g (10 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 25 ml of dimethyl sulphoxide, and the mixture is heated at 140° for 5 hours. 40 ml of water are added to the suspension and the precipitate is filtered off with suction, washed with water and boiled up with 20 ml of methanol. 1.2 g of 1-cyclopropyl-7-(4-cyclopropyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 226°-229° (with decomposition) are obtained.

reactant | 1-cyclopropylpiperazine | 1.3 g | C1(CC1)N1CCNCC1 | C7H14N2
reactant | 1,4-diazabicyclo[2.2.2]octane | 20 mmol, 2.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.8 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | water | 40 ml | O | H2O
solvent | dimethyl sulphoxide | 25 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-7-(4-cyclopropyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C1CC1)F)=O)C(=O)O | C20H22FN3O3
